US03957766
2-(2-Furyl)-4,6-dichloropyrimidine (m.p. 68° - 70°C.) was reacted with sodium azide in aqueous acetone to give 2-(2-furyl)-4-azido-6-chloropyrimidine (m.p. 117° - 119°C.) and this was then nitrated to give 2-(5-nitro-2-furyl)-4-azido-6-chloropyrimidine (m.p. 114° - 116°C.) which was, in turn, reacted with hydrazine hydrate in isopropanol.

reactant | 2-(2-Furyl)-4,6-dichloropyrimidine | O1C(=CC=C1)C1=NC(=CC(=N1)Cl)Cl | C8H4Cl2N2O
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-(2-furyl)-4-azido-6-chloropyrimidine | O1C(=CC=C1)C1=NC(=CC(=N1)N=[N+]=[N-])Cl | C8H4ClN5O
